US06258812B1
51.2) 4-(4-Pyridylmethyl)-5,6,7,8-tetrahydro-1 (2H)-phthalazinone
A mixture of 0.773 g (3.4 mmol) 2-[4(1H)-pyridinylidene]-4,5,6,7-tetrahydro-inden-1,3-dione and 5 ml hydrazine hydrate is heated for 4 h under reflux. The title compound is obtained after cooling to 0° C., filtration, washing of the filter residue with water, then ether, and drying under HV (8 h, 100° C.); m.p. 193-194° C.; ESI-MS: (M+H)+=242.

reactant | 2-[4(1H)-pyridinylidene]-4,5,6,7-tetrahydro-inden-1,3-dione | 3.4 mmol, 0.773 g | N1C=CC(C=C1)=C1C(C=2CCCCC2C1=O)=O | C14H13NO2
reactant | hydrazine hydrate | 5 ml | O.NN
product | 4-(4-Pyridylmethyl)-5,6,7,8-tetrahydro-1 (2H)-phthalazinone | N1=CC=C(C=C1)CC1=NNC(C=2CCCCC12)=O | C14H15N3O
